US07196107B2
2-methyl-4-(2-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}ethyl)phenol
A solution of 5-{(E)-2-[4-(benzyloxy)-3-methylphenyl]ethenyl}-4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole)_(intermediate 6, 1.5 g) in glacial acetic acid (30 ml) was hydrogenated over 10% palladium on carbon (0.150 g). The catalyst was filtered off, the solvent was removed and the residues dissolved in ethyl acetate. This was washed with saturated sodium bicarbonate solution and brine. Drying and removal of solvent gave an oil which was purified by SPE (Si cartridge). Elution with cyclohexane:ethyl acetate gave the title compound as a white solid.

reactant | 5-{(E)-2-[4-(benzyloxy)-3-methylphenyl]ethenyl}-4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C27H22F3NOS
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.150 g | [Pd] | Pd
product | 2-methyl-4-(2-{4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}ethyl)phenol | CC1=C(C=CC(=C1)CCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)O | C20H18F3NOS
